US05134142
A mixture of ethyl 4-(4-tolyl)-2,4-dioxobutanoate (4.7 g) and 4-fluorophenylhydrazine hydrochloride (3.6 g) in dioxane (35 ml) and ethanol (35 ml) was refluxed for 5 hours. The mixture was filtered and the filtrate was concentrated in vacuo. The oily residue (8 g) was purified.by column chromatography on silica gel (130 g) eluting with chloroform to give an oil of ethyl 1-(4-fluorophenyl)-5-(4-tolyl)pyrazole-3-carboxylate (2.7 g).

reactant | ethyl 4-(4-tolyl)-2,4-dioxobutanoate | 4.7 g | C1(=CC=C(C=C1)C(CC(C(=O)OCC)=O)=O)C | C13H14O4
reactant | 4-fluorophenylhydrazine hydrochloride | 3.6 g | Cl.FC1=CC=C(C=C1)NN
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | ethyl 1-(4-fluorophenyl)-5-(4-tolyl)pyrazole-3-carboxylate | 2.7 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)C)C(=O)OCC | C19H17FN2O2
